US03950380
By replacing in Example 1, step D, 3-amino-5-nitro-4-phenylbenzoic acid and benzyl bromide with equimolar amounts of 3-amino-4-phenyl-5-sulfamylbenzoic acid and crotyl bromide respectively, and following the procedure described, 3-crotylamino-4-phenyl-5-sulfamylbenzoic acid is obtained with a melting point of 186°-187° C.

reactant | 3-amino-5-nitro-4-phenylbenzoic acid | NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C13H10N2O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-amino-4-phenyl-5-sulfamylbenzoic acid | NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C13H12N2O4S
reactant | crotyl bromide | C(C=CC)Br | C4H7Br
product | 3-crotylamino-4-phenyl-5-sulfamylbenzoic acid | C(C=CC)NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C17H18N2O4S
